US08357706B2
To a stirred solution of 5-bromo-3,4-dihydronaphthalen-1(2H)-one (9.95 g, 44.2 mmol) in NMP (50 mL) was added Zn(CN)2 (10.38 g, 88.4 mmol). The mixture was degassed twice by bubbling N2 through the solution for 30 min then evacuated. Pd(Ph3)4 (0.5 g, 0.44 mmol) was added and the mixture was heated to 110° C. under N2. After 5 h, the mixture was cooled to room temperature and poured onto ice (600 mL), using water (300 mL) to complete the transfer. After the ice had melted, the solution was filtered and the resulting solid was collected, suspended in DCM, and filtered again. The solid was collected, washed with water, and purified by column chromatography (EA/hex) to provide 6.9 g (91%) of 5-oxo-5,6,7,8-tetrahydronaphthalene-1-carbonitrile INT-1 as a white solid. LCMS-ESI (m/z) calculated for C11H9NO: 171.2; found 172.1 [M+H]+, tR=2.95 min. 1H NMR (400 MHz, CDCl3) δ 8.26 (dd, J=7.9, 1.4 Hz, 1H), 7.82 (dd, J=7.6, 1.4 Hz, 1H), 7.44 (t, J=7.8 Hz, 1H), 3.20 (t, J=6.1 Hz, 2H), 2.72 (dd, J=7.2, 6.1 Hz, 2H), 2.30-2.17 (m, 2H). 13C NMR (101 MHz, CDCl3) δ 196.22, 147.39, 137.18, 133.39, 131.59, 127.19, 116.93, 112.94, 38.48, 28.05, 22.28.

reactant | 5-bromo-3,4-dihydronaphthalen-1(2H)-one | 44.2 mmol, 9.95 g | BrC1=C2CCCC(C2=CC=C1)=O | C10H9BrO
reactant | water | 300 mL | O | H2O
reactant | NMP | 50 mL | CN1CCCC1=O | C5H9NO
catalyst | Zn(CN)2 | 88.4 mmol, 10.38 g | [C-]#N.[C-]#N.[Zn+2]
product | 5-oxo-5,6,7,8-tetrahydronaphthalene-1-carbonitrile | 6.9 g, 91% | O=C1C=2C=CC=C(C2CCC1)C#N | C11H9NO
